US08420640B2
A solution of 2-nitro-N-phenyl-5-(piperazin-1-yl)benzenamine (0.30 g, 1.0 mmol), dimethylcarbamic chloride (0.09 ml, 1.0 mmol) and triethylamine (0.16 ml, 2.0 mmol) in 20 ml dichloromethane was stirred at 0° C. for 2 hours. The mixture was washed with water (2×10 ml) and dried over anhydrous sodium sulfate before removing the solvents. 5-(4-dimethylcarbamylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (0.35 g, 95%) was obtained by flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.88 (s, 6H), 3.31 (dd, J=1.5, 6.4 Hz, 4H), 3.42 (dd, J=1.5, 6.4 Hz, 4H), 6.34 (dd, J=2.6, 9.6 Hz, 1H), 6.41 (d, J=2.6 Hz, 1H), 7.26-7.47 (m, 5H), 8.17 (d, J=9.6 Hz, 1H), 9.88 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 38.9, 46.6, 47.0, 60.9, 96.5, 106.2, 125.0, 126.0, 129.4, 130.2, 139.4, 145.9, 156.0, 164.8.

reactant | 2-nitro-N-phenyl-5-(piperazin-1-yl)benzenamine | 1.0 mmol, 0.30 g | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCNCC1)NC1=CC=CC=C1 | C16H18N4O2
reactant | dimethylcarbamic chloride | 1.0 mmol, 0.09 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 2.0 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-(4-dimethylcarbamylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 0.35 g, 95% | CN(C(=O)N1CCN(CC1)C=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-])C | C19H23N5O3
